US04111923
(b) D-Leucyl-L-leucine methyl ester hydrochloride
A solution of 1.95 g. of Nα -benzyloxycarbonyl-D-leucyl-L-leucine methyl ester in 50 ml. of absolute methanol containing 2.08 ml. of 2.38N hydrogen chloride in methanol is treated with 250 mg. of 10% palladium on carbon and is shaken in a hydrogen atmosphere until thin layer chromatography of solution samples indicate completion of the reaction. The catalyst is removed by filtration and the filtrate taken to dryness. The product is used without further purification.

reactant | Nα -benzyloxycarbonyl-D-leucyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC(C)C)=O | C21H32N2O5
reactant | hydrogen chloride | 2.38N | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 2.08 ml | CO | CH4O
product | D-Leucyl-L-leucine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@H](N)CC(C)C)=O)CC(C)C)=O | InChI=1S/C13H26N2O3.ClH/c1-8(2)6-10(14)12(16)15-11(7-9(3)4)13(17)18-5;/h8-11H,6-7,14H2,1-5H3,(H,15,16);1H/t10-,11+;/m1./s1
